US08114881B2
c) 6-[1-(4-Cyano-phenyl)-1H-1,2,3-triazol-5-yl]-N,5-dimethyl-3-oxo-4-[3-(trifluoromethyl)-phenyl]-3,4-dihydro-pyrazine-2-carboxamide
4-(5-Tributylstannanyl-[1,2,3]triazol-1-yl)-benzonitrile (0.15 g, 0.32 mmol), 6-bromo-N,5-dimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide (SM2, 0.054 g, 0.14 mmol), Pd(PBut3)2 (10 mg) and DME (2 ml) were placed in a tube for microwave synthesis. The mixture was degassed with argon and heated in a synthesis microwave heater (CEM) at 100° C. (max 150 W) for 10 minutes. The solvent was removed in vacuo giving a crude product which was purified on silica and then further purified on preparative HPLC. The pure fractions were freeze-dried giving 27 mg (41%) of the title compound.

reactant | 4-(5-Tributylstannanyl-[1,2,3]triazol-1-yl)-benzonitrile | 0.32 mmol, 0.15 g | C(CCC)[Sn](C1=CN=NN1C1=CC=C(C#N)C=C1)(CCCC)CCCC
reactant | 6-bromo-N,5-dimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | 0.14 mmol, 0.054 g | BrC1=C(N(C(C(=N1)C(=O)NC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C14H11BrF3N3O2
solvent | DME | 2 ml | COCCOC | C4H10O2
product | 6-[1-(4-Cyano-phenyl)-1H-1,2,3-triazol-5-yl]-N,5-dimethyl-3-oxo-4-[3-(trifluoromethyl)-phenyl]-3,4-dihydro-pyrazine-2-carboxamide | 27 mg, 41% | C(#N)C1=CC=C(C=C1)N1N=NC=C1C1=C(N(C(C(=N1)C(=O)NC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C23H16F3N7O2
